US08071581B2
Step 3: (4-amino-3-nitro-phenyl)-acetic acid hydrochloride
A solution of (4-acetylamino-3-nitro-phenyl)-acetic acid methyl ester (1.3 g, 5.15 mmol) in 6 N aqueous hydrochloric acid (10 mL) was stirred at reflux for 1.5 h, then concentrated in vacuo to dryness. The residue was triturated with diethyl ether, filtered, washed with diethyl ether, and dried in vacuo to give 978 mg of product as a dark orange-yellow solid. 1H NMR 500 MHz (DMSO) δ 3.49 (s, 2H), 6.98 (d, 1H), 7.30 (dd, 1H), 7.86 (d, 1H); MS (m/z) 197 [M+H+]+.

reactant | (4-acetylamino-3-nitro-phenyl)-acetic acid methyl ester | 5.15 mmol, 1.3 g | COC(CC1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-])=O | C11H12N2O5
reactant | hydrochloric acid | 6 N, 10 mL | Cl | ClH
product | (4-amino-3-nitro-phenyl)-acetic acid hydrochloride | 978 mg | Cl.NC1=C(C=C(C=C1)CC(=O)O)[N+](=O)[O-] | InChI=1S/C8H8N2O4.ClH/c9-6-2-1-5(4-8(11)12)3-7(6)10(13)14;/h1-3H,4,9H2,(H,11,12);1H
